US06541471B1
Step a: 3,5-Dibromobenzaldehyde
0.222 mol of a solution of n-butyllithium in hexane is added dropwise at −80° C. to 0.222 mol of 1,3,5-tribromobenzene in 1.8 liters of ethyl ether. The reaction mixture is stirred at −80° C. for one hour. A solution of 0.222 mol of N,N-dimethylformamide in 50 ml of ethyl ether is slowly added. The temperature is maintained at −80° C. for one hour, before being brought to ambient temperature. Stirring is carried out for one night. 450 ml of 1N hydrochloric acid are added. The reaction mixture is extracted with ether. The organic phases are collected and dried over magnesium sulphate. After filtration and removal of the solvents by evaporation, the crude product is purified by chromatography on a silica column (eluant: cyclohexane/ethyl acetate: 95/5).

reactant | n-butyllithium | C(CCC)[Li]
reactant | 1,3,5-tribromobenzene | BrC1=CC(=CC(=C1)Br)Br | C6H3Br3
reactant | N,N-dimethylformamide | 0.222 mol | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | 1N, 450 ml | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | ethyl ether | 1.8 liters | C(C)OCC | C4H10O
solvent | ethyl ether | 50 ml | C(C)OCC | C4H10O
product | 3,5-Dibromobenzaldehyde | BrC=1C=C(C=O)C=C(C1)Br | C7H4Br2O
